US07183306B2
A solution of methanesulfonyl chloride (328 mg) in CH2Cl2 (2 ml) was added to a solution of 5-[4-(2-hydroxyethyl)-phenyl]-N-methoxy-1-(4-methoxyphenyl)-N-methyl-1H-pyrazole-3-carboxamide (840 mg) and Et3N (334 mg) in CH2Cl2 (10 ml) under ice bath cooling. The mixture was stirred at same temperature for 1 hour. The mixture was diluted with CHCl3 and washed with 1M HCl, saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by silica gel column chromatography eluted with AcOEt/n-hexane=80%, 90%. The pure fractions were collected and concentrated in vacuo to give 2-{4-[3-{[methoxy(methyl)amino]carbonyl}-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]phenyl}ethyl methanesulfonate (1.01 g) as an oil.

reactant | methanesulfonyl chloride | 328 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-[4-(2-hydroxyethyl)-phenyl]-N-methoxy-1-(4-methoxyphenyl)-N-methyl-1H-pyrazole-3-carboxamide | 840 mg | OCCC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)C(=O)N(C)OC | C21H23N3O4
reactant | Et3N | 334 mg | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-{4-[3-{[methoxy(methyl)amino]carbonyl}-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]phenyl}ethyl methanesulfonate | 1.01 g | CS(=O)(=O)OCCC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)C(=O)N(C)OC | C22H25N3O6S
